US05374641
In argon atmosphere, 15.19 g of dimethyl methylphosphonate was dissolved in 170 ml of dry tetrahydrofuran, followed by dropwise addition of 1.55M n-butyl lithium solution in hexane at -78° C., which was then stirred at the same temperature for 80 minutes. Methyl nicotinate (16.79 g) dissolved in 50 ml of dry tetrahydrofuran was added dropwise and stirred at -78° C. for 20 hours, followed by addition of water. The organic solvent was distilled off under reduced pressure, which was extracted with methylene chloride. Alternatively, 2N hydrogen chloride was added to aqueous phase for neutralization, which was then extracted with ethyl acetate. The organic phase was washed in saturated aqueous sodium chloride, and dried over magnesium sulfate, to distill off the solvent under reduced pressure. The obtained residue was subjected to chromatography on a silica gel column, and from a fraction eluted with methanol-methylene chloride (5:95 v/v), 19.30 g of dimethyl 2-oxo-2-(3-pyridyl)ethylphosphonate was obtained.

reactant | dimethyl methylphosphonate | 15.19 g | CP(OC)(OC)=O | C3H9O3P
reactant | n-butyl lithium | 1.55M | C(CCC)[Li]
reactant | Methyl nicotinate | 16.79 g | C(C1=CN=CC=C1)(=O)OC | C7H7NO2
reactant | water | O | H2O
solvent | tetrahydrofuran | 170 ml | O1CCCC1 | C4H8O
solvent | hexane | CCCCCC | C6H14
solvent | tetrahydrofuran | 50 ml | O1CCCC1 | C4H8O
product | dimethyl 2-oxo-2-(3-pyridyl)ethylphosphonate | 19.30 g | O=C(CP(OC)(OC)=O)C=1C=NC=CC1 | C9H12NO4P
